US08735402B2
(d) Benzyl 3-[4-(5-chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate
At 0° C., 1.14 g of triphenylphosphine and 0.69 ml of diethyl azodicarboxylate were initially charged in 30 ml of tetrahydrofuran, and the mixture was stirred for 15 min. 1.00 g of 4-(5-chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenol, 0.61 ml of triethylamine and 0.90 g of benzyl 3-hydroxycyclobutanecarboxylate were then added, and the reaction was stirred under argon, initially at room temperature for 6 h. Another 1.14 g of triphenylphosphine and 0.69 ml of diethyl azodicarboxylate were then added, and the reaction was stirred for 12 h. After another addition of 1.14 g of triphenylphosphine and 0.69 ml of diethyl azodicarboxylate and 2 further hours of reaction time at room temperature, the reaction was concentrated and the resulting residue was purified by flash chromatography (silica gel, heptane/ethyl acetate). This gave 1.45 g (86%) of the title compound.

reactant | triphenylphosphine | 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.69 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(5-chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenol | 1.00 g | ClC=1N=CC2=C(N1)OC(=N2)C2=CC(=C(C(=C2)C)O)C | C13H10ClN3O2
reactant | benzyl 3-hydroxycyclobutanecarboxylate | 0.90 g | OC1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H14O3
reactant | triphenylphosphine | 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.69 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.69 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
product | Benzyl 3-[4-(5-chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate | ClC=1N=CC2=C(N1)OC(=N2)C2=CC(=C(OC1CC(C1)C(=O)OCC1=CC=CC=C1)C(=C2)C)C | C25H22ClN3O4
